US04568695
2-Amino-3-[(4-bromophenyl)hydroxymethyl]benzeneethanol
To a stirred slurry of 3.3 g (0.087 mole) of lithium aluminum hydride in 75 ml of dry tetrahydrofuran a solution of 15.8 g (0.043 mole) of 2-amino-3-(4-bromobenzoyl) benzeneacetic acid, ethyl ester in 175 ml of tetrahydrofuran was added dropwise over a 20 min period. The mixture was then heated at reflux for 1.5 hr under nitrogen atomsphere. The mixture was cooled and treated successively with 3.3 ml of water, 3.3 ml of a 5% sodium hydroxide solution and 10 ml of water. The mixture was filtered through celite and the filter cake was washed thoroughly with tetrahydrofuran. The combined filtrate and tetrahydrofuran wash was concentrated under reduced pressure to give a solid residue. The solid was recrystallized from ethyl acetate to yield 7.6 g (54%) of the titled compound as gray solid, m.p. 128°-129° C.

reactant | lithium aluminum hydride | 0.087 mole, 3.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-amino-3-(4-bromobenzoyl) benzeneacetic acid, ethyl ester | 0.043 mole, 15.8 g | NC1=C(C=CC=C1C(C1=CC=C(C=C1)Br)=O)CC(=O)OCC | C17H16BrNO3
reactant | water | 3.3 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
product | 2-Amino-3-[(4-bromophenyl)hydroxymethyl]benzeneethanol | 7.6 g, 54% | NC1=C(C=CC=C1C(O)C1=CC=C(C=C1)Br)CCO | C15H16BrNO2
